US09169209B2
D. N-(4-((4-methoxyphenyl)sulfonyl)phenyl)-3-(pyridin-3-yl)acrylamide
To a solution of 4-((4-methoxyphenyl)sulfonyl)aniline (76 mg, 0.29 mmol) in DMF (3 mL) is added 3-(pyridin-3-yl)acryloyl chloride (62 mg, 0.30 mmol) and K2CO3 (138 mg, 1 mmol). The mixture is heated at 50° C. for 2 h and the solvent is evaporated. The residue is partitioned between EtOAc (15 mL) and brine (10 mL) and the layers are separated. The aqueous layer is extracted with EtOAc (10 mL) and the combined extracts are dried (Na2SO4) and evaporated. Purification of the residue by preparative TLC with 100:5:0.5 CH2Cl2/MeOH/NH4OH gives the titled compounds as a white solid (66 mg, 58%).

reactant | 4-((4-methoxyphenyl)sulfonyl)aniline | 0.29 mmol, 76 mg | COC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C13H13NO3S
reactant | 3-(pyridin-3-yl)acryloyl chloride | 0.30 mmol, 62 mg | N1=CC(=CC=C1)C=CC(=O)Cl | C8H6ClNO
reactant | K2CO3 | 1 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-((4-methoxyphenyl)sulfonyl)phenyl)-3-(pyridin-3-yl)acrylamide | 66 mg, 58% | COC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C=CC=1C=NC=CC1)=O | C21H18N2O4S
